US04997836
To a mixture of 1-tert-butoxycarbonyl-4-(3,4,5-trimethoxybenzoyl)piperazine-2-methanol (12.0 g), methyl iodide (21.3 g) and dimethyl formamide (50 ml) is added, under ice-cooling while stirring, in limited amounts, 60% sodium hydride (1.8 g). The mixture is stirred for 30 further minutes, and the reaction mixture is poured into ice-water, followed by extraction with ethyl acetate. The organic layer is dried and concentrated. The residue is purified by means of a silica gel column chromatography (eluent: dichloromethane-ethyl acetate=1:1) to afford 1-tert-butoxycarbonyl-2-methoxymethyl-4-(3,4,5-trimethoxybenzoyl)piperazine (12.5 g) as colorless crystals, m.p. 127° C.

reactant | 1-tert-butoxycarbonyl-4-(3,4,5-trimethoxybenzoyl)piperazine-2-methanol | 12.0 g | C(C)(C)(C)OC(=O)N1C(CN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)CO | C20H30N2O7
reactant | methyl iodide | 21.3 g | CI | CH3I
reactant | sodium hydride | 1.8 g | [H-].[Na+]
solvent | dimethyl formamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-tert-butoxycarbonyl-2-methoxymethyl-4-(3,4,5-trimethoxybenzoyl)piperazine | 12.5 g | C(C)(C)(C)OC(=O)N1C(CN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)COC | C21H32N2O7
